US08466282B2
Methyl 2-[(tert-butoxycarbonyl)(4-methoxybutyl)amino]-3-nitrobenzoate
Methyl 2-[(tert-butoxycarbonyl)amino]-3-nitrobenzoate (3.0 g), 4-methoxybutyl methanesulfonate (2.0 g) and potassium carbonate (2.1 g) were dissolved in DMF (30 ml), and the mixture was stirred at 60° C. overnight. The reaction mixture was concentrated, aqueous potassium carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (0:10→8:2) was concentrated under reduced pressure to give the object product (2.9 g).

reactant | Methyl 2-[(tert-butoxycarbonyl)amino]-3-nitrobenzoate | 3.0 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C13H16N2O6
reactant | 4-methoxybutyl methanesulfonate | 2.0 g | CS(=O)(=O)OCCCCOC | C6H14O4S
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Methyl 2-[(tert-butoxycarbonyl)(4-methoxybutyl)amino]-3-nitrobenzoate | 2.9 g | C(C)(C)(C)OC(=O)N(C1=C(C(=O)OC)C=CC=C1[N+](=O)[O-])CCCCOC | C18H26N2O7
